US04281000
2-Dimethylaminoethyl 7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate
To a mixture of ethyl 7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate in 2-dimethylamino ethanol is added sodium hydride. After the hydride is reacted the mixture is heated on a steam bath for 6 hours. The solvent is removed and the residue acidified with dilute acetic acid to give the product of the example.

reactant | ethyl 7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C(=O)OCC | C14H12N4O2
reactant | sodium hydride | [H-].[Na+]
reactant | hydride | [H-]
reactant | 2-dimethylamino ethanol | CN(CCO)C | C4H11NO
product | 2-Dimethylaminoethyl 7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C(=O)OCCN(C)C | C16H17N5O2
